US07714161B2
A 100 mL round bottom flask was charged with p-xylene (56 mL), Pd(OAc)2 (62.86 mg, 0.28 mmol), 1,3-bis-(2,6-diisopropylphenyl) imidazolinium chloride (119.53 mg, 0.28 mmol), 3,5-diacetoxybenzoyl chloride (7.19 g, 28 mmol), 4-acetoxystyrene (5.35 mL, 33.6 mmol), and N-methyl morphorline (4.2 mL, 33.6 mmol). The mixture was stirred at 120° C. for 3.5 h at nitrogen atmosphere. Then it was cooled to room temperature and EtOAc was added and filtered. The filtrate was washed with brine and dried over Na2SO4. Then it was filtered and purified via flash chromatography (15% EtOAc/hexane, 25% EtOAc/Hexene, then 35% EtOAc/hexane) and gave resveratrol triacetate (6.95 g, 70.1%) as white solid. Data are: 1H NMR (CDCl3, 300 MHz) δ 7.50 (d, 2H), 7.12-6.94 (m, 6H), 6.82 (t, 1H), 2.31 (s, 9H); 13C NMR (CDCl3, 75 MHz) 169.6, 169.2, 151.5, 150.6, 139.7, 134.7, 129.9, 127.9, 127.4, 122.1, 117.1, 114.6, 21.4; mp=116-118° C.; HRMS (EI+) found 354.1118 M+, calcd 354.1103 for C20H18O6; Anal. Calcd for C20H18O6: C, 67.79, H, 5.12. Found: C, 67.93, H, 5.26.

reactant | p-xylene | 56 mL | CC=1C=CC(=CC1)C | C8H10
reactant | 3,5-diacetoxybenzoyl chloride | 28 mmol, 7.19 g | C(C)(=O)OC=1C=C(C(=O)Cl)C=C(C1)OC(C)=O | C11H9ClO5
reactant | 4-acetoxystyrene | 33.6 mmol, 5.35 mL | C(C)(=O)OC1=CC=C(C=C)C=C1 | C10H10O2
catalyst | Pd(OAc)2 | 0.28 mmol, 62.86 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | 1,3-bis-(2,6-diisopropylphenyl) imidazolinium chloride | 0.28 mmol, 119.53 mg | [Cl-].C(C)(C)C1=C(C(=CC=C1)C(C)C)[NH+]1CN(CC1)C1=C(C=CC=C1C(C)C)C(C)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | resveratrol triacetate | 6.95 g, 70.1% | C(C)(=O)OC=1C=C(C=C(C1)OC(C)=O)C=CC1=CC=C(OC(C)=O)C=C1 | C20H18O6
